US07572808B2
Preparation of 7-(4-chlorophenyl)-8-(4-hydroxyphenyl)-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirring solution of 8-bromo-7-(4-chlorophenyl)-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (64 mg, 0.13 mmol) in THF (2 mL) at room temperature under argon was added 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (84.9 mg, 0.39 mmol), Pd(dppf)Cl2.CH2Cl2 (10.5 mg, 0.013 mmol), and K3PO4 (82 mg, 0.39 mmol). The resulting suspension was purged of oxygen by bubbling with argon for 15 min, sealed in a vial under argon, heated at 90° C. for 48 h, and then cooled to room temperature. Analysis by HPLC/MS indicated that starting material was still persent and one major new product had formed. The reaction mixture was diluted with EtOAc and washed once with brine. The organic layer was dried (MgSO4), filtered, and concentrated under reduced pressure. The crude product was purified by automated silica gel chromatography (eluted with EtOAc/hexanes). Pooling of the desired fractions, washing with saturated aq. NaHCO3 solution to eliminate any possible boronic acid contaminant, drying the organic phase (MgSO4), filtering and evaporation provided the title compound as a yellow solid, 10 mg, 15%. HPLC/MS: retention time=3.34 min, [M+H]+=511. 1H NMR (CDCl3): δ 7.82 (d, J=7.0 Hz, 1H), 7.66 (d, J=7.9 Hz, 1H), 7.47 (d, J=7.9 Hz, 1H), 7.25 (m, 3H), 7.06 (dd, J=2.2, 6.6 Hz, 4H), 6.66 (m, 3H), 5.26 (s, 2H), 4.1 (br s, 1H), 2.73 (s, 3H).

reactant | 8-bromo-7-(4-chlorophenyl)-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.13 mmol, 64 mg | BrC=1C=2N(C=CC1C1=CC=C(C=C1)Cl)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C)=O | C20H13BrClF3N4O
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.39 mmol, 84.9 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | CH2Cl2 | 0.013 mmol, 10.5 mg | C(Cl)Cl | CH2Cl2
reactant | K3PO4 | 0.39 mmol, 82 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 7-(4-chlorophenyl)-8-(4-hydroxyphenyl)-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C)=O)C2=CC=C(C=C2)O | C26H18ClF3N4O2
